US05753707
To a 1-l flask equipped with a stirrer, a dropping funnel and a condenser, 24 g (0.6 mol) of 60% sodium hydride, 500 ml of dimethylformamide were charged, followed by the dropwise addition of a solution of 163.3 g (0.5 mol) of ethyl ricinoleate in 142 g (1.0 mol) of methyl iodide over one hour while stirring at 40° C. under an N2 atmosphere. After the completion of the dropwise addition, stirring was conducted at 40° for further 6 hours. To the reaction mixture so obtained, hexane was added. The resulting mixture was then washed with an aqueous solution of ammonium chloride and an aqueous solution of sodium thiosulfate, followed by concentration under reduced pressure. The residue was purified by chromatography on a silica gel column, whereby 155.8 g of ethyl 12-methoxy-9-octadecenoate were obtained (yield: 92%).

reactant | sodium hydride | 0.6 mol, 24 g | [H-].[Na+]
reactant | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
reactant | ethyl ricinoleate | 0.5 mol, 163.3 g | C(CCCCCCC\C=C/C[C@H](O)CCCCCC)(=O)OCC | C20H38O3
reactant | methyl iodide | 1.0 mol, 142 g | CI | CH3I
solvent | hexane | CCCCCC | C6H14
product | ethyl 12-methoxy-9-octadecenoate | 155.8 g, yield: 92% | COC(CC=CCCCCCCCC(=O)OCC)CCCCCC | C21H40O3
